US04093726
N,N-Dimethyl 4-(5,6-dimethoxy-2-benzimidazolyl) piperazine-1-carboxamide hydrochloride
3.50 g 2-chloro 5,6-dimethoxybenzimidazole, 7.50 g N,N-dimethyl 1-piperazine carboxamide [J. Org. Chem. 13 144 (1948)], 20 ml methoxyethanol was reacted as described in Example I. The product was converted to the HCl salt with HCl in isopropyl alcohol. Yield: 5.33 g mp 252°-254° C (85%)

reactant | 2-chloro 5,6-dimethoxybenzimidazole | 3.50 g | ClC=1NC2=C(N1)C=C(C(=C2)OC)OC | C9H9ClN2O2
reactant | N,N-dimethyl 1-piperazine carboxamide | 7.50 g | CN(C(=O)N1CCNCC1)C | C7H15N3O
reactant | methoxyethanol | 20 ml | COC(C)O | C3H8O2
reactant | HCl | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N,N-Dimethyl 4-(5,6-dimethoxy-2-benzimidazolyl) piperazine-1-carboxamide hydrochloride | Cl.CN(C(=O)N1CCN(CC1)C=1NC2=C(N1)C=C(C(=C2)OC)OC)C | InChI=1S/C16H23N5O3.ClH/c1-19(2)16(22)21-7-5-20(6-8-21)15-17-11-9-13(23-3)14(24-4)10-12(11)18-15;/h9-10H,5-8H2,1-4H3,(H,17,18);1H
